US04296114
1-(4-Carboxymethylphenyl)-1,2-dihydro-3-methylquinoxalin-2-one
Preparation as in Example 1 but using N-(4-carboxymethylphenyl)benzene-1,2-diamine and ethyl pyruvate gave the title compound mp 179°-181.5° C.

reactant | N-(4-carboxymethylphenyl)benzene-1,2-diamine | C(=O)(O)CC1=CC=C(C=C1)NC=1C(=CC=CC1)N | C14H14N2O2
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 1-(4-Carboxymethylphenyl)-1,2-dihydro-3-methylquinoxalin-2-one | C(=O)(O)CC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)C)=O | C17H14N2O3
